US09359367B2
Step 2: 1-benzyl-2,2-dimethylpiperazine
To a stirred solution of lithiulalluminium hydride (1.078 g, 28.4 mmol) in tetrahydrofuran (200 ml) at 0-20° C. was added 4-benzyl-3,3-dimethylpiperazin-2-one (6.2 g, 28.4 mmol in 100 ml tetrahydrofuran) over 1 h. The reaction mixture was warmed to 25° C. over 15 minutes followed by reflux for 6 h. The progress of reaction was monitored by TLC. After completion of reaction, the reaction mixture was cooled to 0-10° C. and 10% sodium hydroxide (50 ml) was added slowly over 1 h. and then allowed to stir for 20 hr at 25° C. The reaction mass was passed through celite and washed with tetrahydrofuran (500 ml). The combined filtrate was concentrated under reduced pressure. Water (100 ml) was added and the aq. phase was extracted with ethyl acetate (3×100 ml). The combined organic layer was washed with brine (50 ml) and dried over sodium sulphate, and concentrated under reduced pressure till dryness. The resulting crude product (5.2 g) was carried over to the next step without purification.

reactant | hydride | 28.4 mmol, 1.078 g | [H-]
reactant | 4-benzyl-3,3-dimethylpiperazin-2-one | 28.4 mmol, 100 ml, 6.2 g | C(C1=CC=CC=C1)N1C(C(NCC1)=O)(C)C | C13H18N2O
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-benzyl-2,2-dimethylpiperazine | C(C1=CC=CC=C1)N1C(CNCC1)(C)C | C13H20N2
